US07932284B2
Method Q Add N-[1-isopropyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indol-6-yl]-methanesulfonamide (50.0 mg, 0.132 mmoles), 4-bromo-3-methyl-benzonitrile (51.8 mg, 0.264 mmoles), Pd(OAc)2 (4.25 mg, 0.018 mmoles; 4.25 mg), 2-(diphenylphosphino)-2′-(N,N-dimethylamino)biphenyl (11.5 mg, 0.030 mmoles), potassium phosphate (84.2 mg, 0.396 mmoles), and 1,4-dioxane (1.00 mL) to a 10 mL microwave vessel, equipped with a stir bar. Purge the reaction mixture with nitrogen, and then seal the vessel with a cap. Place the vessel in a microwave reactor at 150° C. for 15 min at 250 W heating. Monitor the reaction using LC/MS. Cool the reaction to ambient temperature and quench with saturated aqueous ammonium chloride. Extract the resulting mixture into ethyl acetate. Wash the combined extracts with saturated aqueous ammonium chloride, water and brine. Dry the resulting solution over sodium sulfate (granular) and concentrate in vacuo. Dissolve the resulting solid in dichloromethane and purify on a chromatotron (1MM silica gel plate) 0-2% ethyl acetate gradient in dichloromethane. A second purification may be necessary. This time purify the material with 30-40% ethyl acetate gradient in hexane to provide N-[3-(4-Cyano-2-methyl-phenyl)-1-isopropyl-1H-indol-6-yl]-methanesulfonamide, 35 mg (75%) as an off white solid. 1H NMR (CDCl3) δ 7.58 (s, 1H), 7.45-7.52 (m, 3), 7.41 (d, 1H, J=8.4 Hz), 7.25 (s, 1H), 6.9 (dd, 1H, J=8.4, 1.7 Hz), 6.52 (s, 1H), 4.65 (septet, 1H, J=6.7 Hz), 2.98 (s, 3H), 2.34 (s, 3H), 1.55 (d, 6H, J=6.7 Hz); MS (IS−) m/e 377 (M−1).

reactant | N-[1-isopropyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indol-6-yl]-methanesulfonamide | 0.132 mmoles, 50.0 mg | C(C)(C)N1C=C(C2=CC=C(C=C12)NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C18H27BN2O4S
reactant | 4-bromo-3-methyl-benzonitrile | 0.264 mmoles, 51.8 mg | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | 2-(diphenylphosphino)-2′-(N,N-dimethylamino)biphenyl | 0.030 mmoles, 11.5 mg | C1(=CC=CC=C1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1=CC=CC=C1 | C26H24NP
reactant | potassium phosphate | 0.396 mmoles, 84.2 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(OAc)2 | 0.018 mmoles, 4.25 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | 1,4-dioxane | 1.00 mL | O1CCOCC1 | C4H8O2
product | N-[3-(4-Cyano-2-methyl-phenyl)-1-isopropyl-1H-indol-6-yl]-methanesulfonamide | C(#N)C1=CC(=C(C=C1)C1=CN(C2=CC(=CC=C12)NS(=O)(=O)C)C(C)C)C | C20H21N3O2S
